

simulator lang=spice
.model nch NMOS level=47 version=4.7
.model pch PMOS level=47  version=4.7

simulator lang=spectre


subckt NCHDL B D G S
    M1_0 (D G S B) nch w=(1.08*1u) l=0.14*1u nf=1
ends NCHDL


subckt PCHDL B D G S
    M1_0 (D G S B) pch w=(1.08*1u) l=0.14*1u nf=1 
ends PCHDL

subckt BFX1_CV A AVDD AVSS BULKN BULKP Y
MN1 (BULKN Y B AVSS) NCHDL
MN0 (BULKN AVSS A B) NCHDL
MP1 (BULKP Y B AVDD) PCHDL
MP0 (BULKP AVDD A B) PCHDL
ends BFX1_CV

