

simulator lang=spice
.model nch NMOS level=47 version=4.7
.model pch PMOS level=47  version=4.7

simulator lang=spectre


subckt NCHDL B D G S
    M1_0 (D G S B) nch w=(1.08*1u) l=0.14*1u nf=1
ends NCHDL


subckt PCHDL B D G S
    M1_0 (D G S B) pch w=(1.08*1u) l=0.14*1u nf=1 
ends PCHDL

subckt BFX1_CV A AVDD AVSS BULKN BULKP Y
MN1 (BULKN Y B AVSS) NCHDL
MN0 (BULKN AVSS A B) NCHDL
MP1 (BULKP Y B AVDD) PCHDL
MP0 (BULKP AVDD A B) PCHDL
ends BFX1_CV

//-----------------------------------------------------------------
// DEVICE UNDER TEST
//-----------------------------------------------------------------
xdut (A AVDD AVSS BULKN BULKP Y ) BFX1_CV

// Force A
//vdc_a (A 0 ) vsource type=dc dc="0"
//vac_a (A 0 ) vsource type=dc dc="0" mag=1
vpulse_a (A 0 ) vsource type=pulse val0=0 vall=vdda period=1/cfs rise=50p fall=50p width=1/cfs/2
//ia (0 A)  isource type=dc dc="0"
//ra (A 0) resistor r=10M
//ca (A 0) capacitor c=10f

// Force AVDD
vdc_avdd (AVDD 0 ) vsource type=dc dc=vdda
//vac_avdd (AVDD 0 ) vsource type=dc dc="0" mag=1
//vpulse_avdd (AVDD 0 ) vsource type=pulse val0=0 vall=vdda period=1/cfs rise=50p fall=50p width=1/cfs/2
//iavdd (0 AVDD)  isource type=dc dc="0"
//ravdd (AVDD 0) resistor r=10M
//cavdd (AVDD 0) capacitor c=10f

// Force AVSS
vdc_avss (AVSS 0 ) vsource type=dc dc=0
//vac_avss (AVSS 0 ) vsource type=dc dc="0" mag=1
//vpulse_avss (AVSS 0 ) vsource type=pulse val0=0 vall=vdda period=1/cfs rise=50p fall=50p width=1/cfs/2
//iavss (0 AVSS)  isource type=dc dc="0"
//ravss (AVSS 0) resistor r=10M
//cavss (AVSS 0) capacitor c=10f

// Force BULKN
vdc_bulkn (BULKN 0 ) vsource type=dc dc=0
//vac_bulkn (BULKN 0 ) vsource type=dc dc="0" mag=1
//vpulse_bulkn (BULKN 0 ) vsource type=pulse val0=0 vall=vdda period=1/cfs rise=50p fall=50p width=1/cfs/2
//ibulkn (0 BULKN)  isource type=dc dc="0"
//rbulkn (BULKN 0) resistor r=10M
//cbulkn (BULKN 0) capacitor c=10f

// Force BULKP
vdc_bulkp (BULKP 0 ) vsource type=dc dc=vdda
//vac_bulkp (BULKP 0 ) vsource type=dc dc="0" mag=1
//vpulse_bulkp (BULKP 0 ) vsource type=pulse val0=0 vall=vdda period=1/cfs rise=50p fall=50p width=1/cfs/2
//ibulkp (0 BULKP)  isource type=dc dc="0"
//rbulkp (BULKP 0) resistor r=10M
//cbulkp (BULKP 0) capacitor c=10f

// Force Y
//vdc_y (Y 0 ) vsource type=dc dc="0"
//vac_y (Y 0 ) vsource type=dc dc="0" mag=1
//vpulse_y (Y 0 ) vsource type=pulse val0=0 vall=vdda period=1/cfs rise=50p fall=50p width=1/cfs/2
//iy (0 Y)  isource type=dc dc="0"
//ry (Y 0) resistor r=10M
cy (Y 0) capacitor c=10f
